US05717100
1-(3,4-Dichlorophenyl)-2-pyridin-4-yl-ethane-1,2-diol
To a stirring solution of diisopropylamine (14.9 g, 19.4 mL, 148 mmol) in tetrahydrofuran (500 mL) at -78° C. was added, dropwise, n-butyllithium (59 mL of a 2.5M solution in tetrahydrofuran). After ten minutes, a solution of 4-pyridylcarbinol t-butyldimethylsilyl ether (30 g, 134 mmol) in tetrahydrofuran (150 mL) was added dropwise and the temperature allowed to rise to -15° C. The solution was again cooled to -78° C. and a solution of 3,4-dichlorobenzaldehyde (25.9 g, 134 mmol) in tetrahydrofuran (150 mL) added dropwise. After the solution was allowed to warm to -20° C., it was poured into saturated aqueous sodium hydrogen carbonate (2 L). The aqueous layer was extracted with ethyl acetate (3×400 mL), the combined organic layers dried over anhydrous magnesium sulfate, filtered and concentrated at reduced pressure. The resulting oil was dissolved in tetrahydrofuran (400 mL) and to this solution was added tetrabutylammonium fluoride (148 mL of a 1.0M solution in tetrahydrofuran) dropwise. After ten minutes, the reaction mixture was concentrated at reduced pressure and the resulting oil chromatographed on silica gel, eluting with 95:5 dichloromethane:methanol to give the title compound as a mixture of diastereomeric diols as a foam (31.7 g) which was used without further purification.

reactant | diisopropylamine | 148 mmol, 19.4 mL, 14.9 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | 4-pyridylcarbinol t-butyldimethylsilyl ether | 134 mmol, 30 g | [Si](C)(C)(C(C)(C)C)OCC1=CC=NC=C1 | C12H21NOSi
reactant | 3,4-dichlorobenzaldehyde | 134 mmol, 25.9 g | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
reactant | sodium hydrogen carbonate | 2 L | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 1-(3,4-Dichlorophenyl)-2-pyridin-4-yl-ethane-1,2-diol | ClC=1C=C(C=CC1Cl)C(C(O)C1=CC=NC=C1)O | C13H11Cl2NO2
